US08067445B2
Step 8: 3-Benzyl-1-(2-bromo-5-trifluoromethyl-benzyl)-1-ethyl-urea
To a solution of (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine (1.5 g, 5.3 mmol) in CH2Cl2 (20 mL) at 0° C. was added diisopropylethylamine (1.7 mL, 13.3 mmol). Phosgene (1.9M in toluene; 4.2 mL, 8.0 mmol) was then added dropwise, and the reaction was stirred for 2 hours. Triethylamine (1.48 mL, 10.6 mmol) was added, followed by benzylamine (0.87 mL, 8.0 mmol), and the reaction was stirred at room temperature for 2.5 hours. After work-up with CH2Cl2 and H2O, the crude material was purified by silica gel chromatography to give the title compound.

reactant | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine | 5.3 mmol, 1.5 g | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
reactant | diisopropylethylamine | 13.3 mmol, 1.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Phosgene | 8.0 mmol, 1.9M, 4.2 mL | C(=O)(Cl)Cl | CCl2O
reactant | Triethylamine | 10.6 mmol, 1.48 mL | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 8.0 mmol, 0.87 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-Benzyl-1-(2-bromo-5-trifluoromethyl-benzyl)-1-ethyl-urea | C(C1=CC=CC=C1)NC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)Br)=O | C18H18BrF3N2O
